US05387603
To an aqueous solution (15 ml) of sodium hydroxide (0.63 g) were added 2-(2,2,2-trifluoroethoxy)phenol (2.85 g) and 1,2-dibromoethane (1.68 ml), and the mixture was reacted with stirring at 120° C. for 8 hours. To the reaction mixture was added concentrated hydrochloric acid (1.3 ml), and the mixture was extracted with diethyl ether. The extract was washed with water, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of hexane and diethyl ether (5/1) as eluent to give 1.78 g of 1-(2-bromoethoxy)-2-(2,2,2-trifluoroethoxy)benzene as an oil

reactant | sodium hydroxide | 15 ml, 0.63 g | [OH-].[Na+]
reactant | 2-(2,2,2-trifluoroethoxy)phenol | 2.85 g | FC(COC1=C(C=CC=C1)O)(F)F | C8H7F3O2
reactant | 1,2-dibromoethane | 1.68 ml | BrCCBr | C2H4Br2
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
product | 1-(2-bromoethoxy)-2-(2,2,2-trifluoroethoxy)benzene | 1.78 g | BrCCOC1=C(C=CC=C1)OCC(F)(F)F | C10H10BrF3O2
